Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't know, they brought me in, they sectioned me"
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Per Dr. ___ ___ Psychiatry ED Initial 
Consultation note:
.
"Mr. ___ is a ___ year old male w/ history of bipolar disorder 
(on lithium and lamictal), prior hospitalization in ___ and 
___ for depression/worsening SI, recent presentation to ___ 
ED on ___ with alcohol intoxication and depression, BIB EMS 
after patient was found crying next to a dumpster in a parking 
lot near ___ making suicidal statements that 
he would hang himself. Patient's BAL level at this time was 177; 
while in the ED he was notably irritable and agitated. Affect at 
the time
was notably odd and characterized by inappropriate laughter. 
During interview this morning, patient was loud, asked multiple 
times to be discharged while yelling from his room that he would 
like to speak with a psychiatrist who can discharge him. Patient 
was cooperative, friendly, laughing and smiling throughout the 
interview. He states that yesterday evening he went to watch a 
movie, began feeling depressed, and returned back to his dorm to 
to drink an unknown quantity of alcohol. Patient states that he 
was in a parking lot, but does not remember being found next to 
a dumpster or any of the other events of last night and denies 
having made any suicidal statements. 
.
Patient admits that recently he has been struggling with some 
depressed mood in context of recent psychosocial stressors. This 
past weekend patient vaguely described attending a wedding with 
family which he did not feel welcome at, and appeared guarded 
regarding divulging further details about any particular events 
occurring during the wedding. He stated nevetherless that his 
mother told him that she tried to overdose and was feeling upset 
that she woke up; when asking patient whether this had upset him 
and if he is close with his mother he started laughing and 
stated "no not really". Patient currently denies any suicidal 
ideation, intent, or plan and states that he currently does not 
feel hopeless, helpless, guilty, or a sense of worthlessness 
although
eh does admitting to having had these feelings in the past. 
Patient currently endorses poor sleep (sleeps ___ hours per 
night), racing thoughts, distractibility, and increased energy 
but denies any impulsive or risky behaviors. He denies any 
auditory or visual hallucinations and denies any paranoid 
thoughts. He feels safe both in the hospital and in his dorms. 
.
Patient states that he is currently connected with an outpatient 
provider through NEU who had started him on lamictal mid 
___ and lithium 1 week ago given concern for worsening 
manic symptoms. He has an appointment scheduled with his 
psychiatric NP tomorrow and therapist on ___. He appeared to 
be inappropriately jocular at times, laughing about allowing him 
to be discharged and that this is all "a misunderstanding". He 
stated "I know I'm manic but I have an appointment tomorrow, I 
can go home right?".
.
ROS: As per HPI. Patient denies any headache, blurry vision, 
dizziness, dyspnea, chest pain, abdominal pain, dysuria. 
.
Collateral: 
___ ___
- ___, NP
.
Patient has a history of hospitalizations for depression and SI, 
he came in with a history that suggested bipolar disorder (but 
was more acutely depressed when patient had initially presented 
in ___. Patient at that time was started on lamictal, but 
during that titration process patient started to "creep" into 
hypomania, with increase in impulsive decisions and racing 
thoughts. Patient stated that he was struggling with sleeping, 
reported sleeping only ___ hours per night. Patient at that time 
was started on seroquel PRN which he reported was helpful but 
patient discontinued for an unknown reason. Ms. ___ 
additionally notes that patient's behaviors have been escalating 
recently in context of worsening binge drinking. Patient was 
last seen by Ms. ___ yesterday and was scheduled for a follow 
up tomorrow; during this visit he did not express suicidal 
thoughts but did appear to be expressing having worsening 
increasing racing thoughts with elevated mood. These symptoms 
have been present since ___
.
In the ED, patient was initially agitated, but calmed down 
shortly thereafter without requiring physical or chemical 
restraint. After that, he remained calm and cooperative and was 
adherent with the medications provided in the ED:
___ 12:44POOLANZapine 2.5 mg
___ 23:16PO/NGLithium Carbonate 300 mg
___ 23:16PO/NGLamoTRIgine 50 mg
___ 23:16POOLANZapine 2.5 mg
.
On admission to the inpatient psychiatric unit, Mr. ___ 
reports being "a little manic for the past few weeks" with 
decreased sleep ___ hours/night; regularly he gets 8 hours), 
racing thoughts, increased energy, increased impulsivity and 
significant feeling of restlessness. His symptoms had been
worsening in the past week to the point where he felt the need 
to self-medicate with alcohol in order to alleviate the 
discomfort from his racing thoughts and feeling of restlessness. 
To that goal, he binge drank vodka on ___ and on the morning of 
___ (morning of presentation); he does not have any 
recollection of the events surrounding those 2 binge drinking 
episodes (he was unable to explain how he developed a large 
ecchymosis around his right eye). Patient denies any other 
instances of drinking, saying that prior to this, he had been 
sober since ___. He denied using any substances.  Mr. 
___ denied any other risky behaviors (such as excessive 
spending or hypersexuality), but did acknowledge engaging in 
excessive spending during previous episodes of mania, usually 
when his manic symptoms are more severe. He denied using any 
other substances. 
.
He denied current SI/HI, intent or plan, and denied AVH. He 
expressed that he feels he will be safe on the unit and agreed 
to notify staff if he feels unsafe or if he experiences any SI 
or HI. He denied paranoid, or persecutory delusions, or 
delusions of thought insertion/withdrawal/manipulation. There  
was no evidence of delusional thought content during the 
interview.
.
Patient reported one past instance of intrusive thoughts about a 
certain number, which he ended up tatooing on the anterior 
aspect of his right wrist in order to make those thoughts go 
away. He denied any other intrusive thoughts/obsessions or 
compulsions.
.
Mr. ___ reported that he had been taking lamictal (sicne 
___ and lithium (in the past week) as prescribed, but 
without improvement in his mania. He said that he does not want 
to be in the hospital, but expressed understanding of the 
necessity for treatment and is agreeable to working with the 
inpatient team and taking medications as prescribed. He denied 
experiencing any side-effects from the olanzapine that he 
received in the ED.
.
REVIEW OF SYSTEMS:
-Psychiatric: 
---Patient reports not eating recently due to "forgetting to 
eat". He denied depressed mood, fatigue/loss of energy, 
anhedonia, thoughts of death/SI, insomnia, psychomotor slowing.
---Patient denies worry, rumination, intrusive thoughts, 
avoidance, phobias, panic.
---Patient denies auditory or visual hallucinations, or 
delusions of reference, paranoia, thought 
insertion/broadcasting/withdrawal.
.
-General: Denies fatigue, fever, chills, nightsweats, headache, 
focal numbness, focal weakness, changes in vision, changes in 
hearing, heat intolerance, cold intolerance, polyuria, 
polydipsia, cough, SOB, CP, palpitations, abdominal pain, 
nausea, vomiting, diarrhea, constipation, melena, dysuria, 
increased urinary frequency, rash, skin changes, joint pain, 
muscle pain, edema, bruising, bleeding.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Hospitalizations:  2 prior hospitalizations ___ for
depression and SI,  ___ for depression). He enies any 
past hospitalizations for mania.
-Current treaters and treatment:  ___, NP from NEU. 
-Medication and ECT trials:  Depakote (states that this had "too
many side effects" and self discontinued for 7 months); tried
several antidepressants prior to that, cannot recall the names.
-Self-injury:  engages in cutting and burning behavior (last cut
___ weeks ago). 
-Harm to others: Denies
-Access to weapons: Denies
.
PAST MEDICAL HISTORY:
Denies
.
MEDICATIONS including vitamins, herbs, supplements, OTC:
Lamotrigine 50 mg PO QHS 
Lithium 300 mg PO QHS 
.
ALLERGIES: NKDA
.
SUBSTANCE ABUSE HISTORY: States that he used to drink heavily
while in high school but was initially sober since ___.
Recently however patient states that he has been drinking 
heavily (unknown quantities) in context of his recent 
interpersonal stressors with his family). 
.
FORENSIC HISTORY:
Arrests: Denies
Convictions and jail terms: Denies
Current status (pending charges, probation, parole): Denies 
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: 
-Mother with hx of depression and
anxiety
=Maternal aunt with hx of bipolar disorder. 
 
Physical Exam:
===EXAM ON ADMISSION===
.
VITAL SIGNS:
___ 1510 Temp: 98.7 PO BP: 128/85 HR: 83 RR: 16 O2 sat: 99% 
on RA
.
General:
-HEENT: Normocephalic. Large ecchymosis on lateral aspect of 
patient's right orbit. Moist mucous membranes, oropharynx clear, 
supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs. 
Numerous scars of different ages from cuts and burns on anterior 
aspect of forearms.
-Skin: No rashes or lesions noted.
.
Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor 
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3 
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Appropriately interprets "don't judge a book by 
its cover"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
.
Mental Status:
-Appearance: thin, Caucasian man appearing stated age, well 
groomed, wearing hospital gown, in no apparent distress
-Behavior: Sitting in chair, appropriate eye contact, no 
psychomotor agitation or slowing
-Attitude: Cooperative, engaged, friendly, smiling frequently
-Mood: "fine"
-Affect: elated; smiling frequently, usually inappropriately 
-Speech: Slightly fast rate, normal volume and tone; easily 
interrupted
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies SI/HI, intent, or plan
---Delusions: No evidence of delusions
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Impaired
-Judgment: Impaired
.
.
===EXAM AT DISCHARGE===
Vitals:
___ 1510 Temp: 98.7 PO BP: 128/85 HR: 83 RR: 16 O2 sat: 99% 
on RA
.
Mental Status Exam:
-Appearance: thin, Caucasian man appearing stated age, well 
groomed, wearing personal clothes, in no apparent distress
-Behavior: Sitting in chair, appropriate eye contact, no 
psychomotor agitation or slowing
-Attitude: Cooperative, engaged, friendly
-Mood: "good"
-Affect: euthymic, still smiling somewhat inappropriately, but 
much less frequently than before
-Speech: normal rate, normal volume and tone
-Thought process: Linear, coherent, goal-oriented, 
future-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI, intent, or plan
---Delusions: No evidence of delusions
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Improved
-Judgment: Improved
 
Pertinent Results:
___ 05:15AM   WBC-6.9 RBC-4.65 HGB-14.0 HCT-41.9 MCV-90 
MCH-30.1 MCHC-33.4 RDW-12.4 RDWSD-40.7
___ 05:15AM   NEUTS-68.0 ___ MONOS-6.1 EOS-0.3* 
BASOS-0.6 IM ___ AbsNeut-4.71 AbsLymp-1.70 AbsMono-0.42 
AbsEos-0.02* AbsBaso-0.04
___ 05:15AM   GLUCOSE-105* UREA N-7 CREAT-0.8 SODIUM-142 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-25 ANION GAP-13
___ 05:15AM   ASA-NEG ___ ACETMNPHN-NEG 
tricyclic-NEG
___ 05:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:30AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 07:01AM BLOOD TSH-1.0
___ 07:01AM BLOOD Triglyc-76 HDL-57 CHOL/HD-2.3 LDLcalc-58
___ 07:01AM BLOOD %HbA1c-5.1 eAG-100

___ 05:15AM   LITHIUM-0.3*

___ 07:00AM BLOOD Lithium-0.9
 
Brief Hospital Course:
Mr. ___ is a ___ year old man, first year student at ___ with 
history of bipolar disorder (on lithium and lamictal), prior 
hospitalization in ___ and ___ for depression/worsening 
SI, recent presentation to ___ ED on ___ with alcohol 
intoxication and depression, BIB EMS on ___ after being found 
crying next to a dumpster in a parking lot near ___ 
___ making suicidal statements that he would hang 
himself.
.
1. LEGAL & SAFETY:  
On admission, Mr. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He was placed on 15 minute checks 
status (least restrictive level) on admission and remained on 
that level of observation throughout while being unit 
restricted.  he patient did not require behavioral or chemical 
restraints during this hospitalization.
.
2. PSYCHIATRIC:
#) Bipolar disorder, current episode manic, without psychotic 
features 
On presentation to the ED on ___, Mr. ___ endorsed 
decreased sleep, increased energy, elevated mood, flight of 
ideas, distractibility for at least 2 weeks. Mental status exam 
was notable for right eye ecchymosis, expansive affect, 
inappropriate smiling and laughter, loud speech, occasional 
loosening of associations, and poor insight. Despite denying 
depressed mood and SI, patient was noted to be minimizing 
symptoms. Furthermore, outpatient psychiatric provider expressed 
significant concern for patient's safety and ability to care for 
self due to worsening symptoms, impulsivity, and impaired 
judgment in the context of sub-therapeutic lithium level, along 
with heavy alcohol use and psychosocial stressors.  
.
Patient was given olanzapine 2.5mg PO x 2 doses, lithium 300mg 
PO x 1 dose, and lamotrigine 50mg PO x 1 dose while he was in 
the ED. 
.
On admission to the inpatient unit, patient reported decreased 
sleep, severe racing thoughts, poor appetite, increased energy, 
impulsivity, and self-medicating with alcohol. Mental status 
exam was notable for elated affect, with frequent inappropriate 
smiling. Patient had right eye ecchymosis without recollection 
of the events that led to it. He also had numerous scars of 
varying ages from cuts and burns on anterior aspect of both 
forearms. 
.
Given his history of bipolar disorder, his symptoms, and exam 
findings, Mr. ___ presentation was most consistent with 
bipolar disorder., current episode manic. 
.
Lithium level on presentation was 0.3 (on lithium 300mg PO qHS). 
On admission on ___, his lithium dose was increased to 
300mg PO qAM + 600mg PO qHS. Olanzapine 2.5mg PO qHS was 
started. Lamotrigine 50mg PO daily (pre-admission medication) 
was DISCONTINUED. 

On the of discharge, Mr. ___ reported feeling better and ready for 
the discharge. He reported that his racing thoughts improved. He 
shared that he is eager to be discharged to continue with his 
daily activities.
He denied any physical complains, denied N/V/D/C/fever/chills. 
Denied any side effects from Lithium.
.
By the time of discharge, Mr. ___ reported sleeping ___ 
hours per night (his baseline), normal level of energy (6 on 
scale from 1 to 10), and resolution of racing thoughts and 
restlessness. He also endorsed good appetite, eating 3 meals per 
day. Mental status was only notable for slight inappropriate 
smiling, but significantly improved since admission.  
.
Lithium level on ___ was 0.9. 
.
3. SUBSTANCE USE DISORDERS:
#) Alcohol use disorder
-Patient reports having been in remission since ___ until this 
past week, when he had 2 episodes of heavy binge-drinking
-Patient has not had recent extensive periods of alcohol use and 
did not have any signs/symptoms of withdrawal
-The psychiatry team counseled the patient regarding alcohol 
use. He expressed that he only drinks heavily during manic 
episodes and that he feels his alcohol use is currently under 
control (after treatment of his mania) and declined any 
additional resources for alcohol cessation.
.
4. MEDICAL
#) No acute or chronic medical issues.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Patient 
declined attending most groups offered on the unit, and declined 
individual structured activities proposed to him during 
one-on-one meetings with occupational therapy staff.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Collateral was obtained by the ED psychiatry team from his 
outpatient provider ___, NP). The Inpatient psychiatry 
team attempted to contact her prior to the patient's discharge 
and left a voicemail with the callback number.
.
Patient provided written consent for release of his discharge 
summary to his outpatient psychiatric NP and to his therapist. 
.
Mr. ___ did not give permission for the team to contact any 
friends or family. 
.
#) INTERVENTIONS
- Medications:  Lithium dose was increased to 300mg PO qAM + 
600mg PO qHS. Olanzapine 2.5mg PO qHS was started. Lamotrigine 
50mg PO daily was DISCONTINUED. 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: follow-up appointment was scheduled 
with ___, NP (outpatient psychiatric provider at 
___. Patient already had upcoming 
appointment scheduled with ___, ___ (outpatient 
therapist).
.
INFORMED CONSENT: Olanzapine
The team discussed the indications for, intended benefits of,  
and possible side effects and risks of starting this medication, 
 and risks and benefits of possible alternatives, including not  
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as  
well as the importance of the patient's actively participating  
in the treatment and discussing any questions about medications 
with the treatment team. The patient appeared able to understand 
and consented to begin the medication.
.
RISK ASSESSMENT& PROGNOSIS
On presentation, Mr. ___ was evaluated and felt to be at 
increased risk of harm to self due to expressed suicidal 
ideation in the emergency department, collateral from outpatient 
providers concerning for rapidly decompensating mania, and 
engagement in impulsive and risky behaviors (binge drinking and 
blacking out; having right eye ecchymosis without recollection 
of the events which led to it).
.
Mr. ___ risk was further increased by a series of static 
risk factors, including  chronic mental illness, history of 
substance abuse, history of self-injurious behavior, family 
history of mental illness, male gender, Caucasian ethnicity, 
adolescent age, single relationship status, limited social 
supports.
.
The modifiable risk factors identified were as such: 
impulsivity, recklessness,
active substance use, poorly controlled mental illness, 
insomnia,
active self-injurious behaviors, limited coping skills. These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with  
psychiatrists, and presence on a social milieu environment. 
.
Mr. ___ is being discharged with several protective factors, 
including future-oriented viewpoint, lack of suicidal ideation, 
consistent outpatient follow-up, positive therapeutic 
relationship with outpatient providers, medication compliance, 
lack of prior suicide attempts, lack of access to lethal 
weapons, reality-testing ability. 
.
Overall, based on the totality of our assessment at  this time, 
Mr. ___ does not manifest symptoms of acute psychiatric 
illness; he does not exhibit symptoms consistent with 
decompensated affective or psychotic illness. He is not at an 
acutely elevated risk of harm to herself nor a danger to others. 
He no longer requires ongoing inpatient hospitalization. 
.
Furthermore, Mr. ___ possesses the preserved capacity to  
engage in a meaningful discussion about safety planning in the  
event that symptoms of depression worsen or suicidal or  
homicidal ideation arise in the future (e.g. patient reported 
that he would reach out to his psychiatrist or therapist, or he 
would go to the nearest emergency room or call ___.
.
Our Prognosis of this patient is fair.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lithium Carbonate 300 mg PO QHS 
2. LamoTRIgine 50 mg PO QHS 

 
Discharge Medications:
1.  OLANZapine 2.5 mg PO QHS 
RX *olanzapine 2.5 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
2.  OLANZapine 2.5 mg PO DAILY:PRN Anxiety/Agitation/Insomnia  
3.  Lithium Carbonate 600 mg PO QHS 
RX *lithium carbonate 300 mg 2 capsule(s) by mouth at bedtime 
Disp #*10 Capsule Refills:*0 
4.  Lithium Carbonate 300 mg PO DAILY 
RX *lithium carbonate 300 mg 1 capsule(s) by mouth once a day 
Disp #*5 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar I disorder, current manic episode, without psychotic 
features

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___